US07816371B2
b. Methyl 4-chloro-2-methyl-3-nitrobenzoate
A round bottom flask was charged with 4-chloro-2-methyl-3-nitrobenzoic acid (11.00 g, 0.05102 mol) and methanol (110 mL, 2.7 mol) and thionyl chloride (4.5 mL, 0.061 mol) was added at 0° C. and the reaction heated at 75° C. for 3 hours. The solvent was removed under reduced pressure and the residue dissolved in ethyl acetate (300 mL) and washed with aqueous sodium bicarbonate, water and brine. The organic extracts were dried over sodium sulfate and the solvent removed to recover the esters. MS m/z=230.3 (M+H).

reactant | 4-chloro-2-methyl-3-nitrobenzoic acid | 0.05102 mol, 11.00 g | ClC1=C(C(=C(C(=O)O)C=C1)C)[N+](=O)[O-] | C8H6ClNO4
reactant | methanol | 2.7 mol, 110 mL | CO | CH4O
reactant | thionyl chloride | 0.061 mol, 4.5 mL | S(=O)(Cl)Cl | Cl2OS
product | Methyl 4-chloro-2-methyl-3-nitrobenzoate | ClC1=C(C(=C(C(=O)OC)C=C1)C)[N+](=O)[O-] | C9H8ClNO4
